US07585885B2
5-[1,3]Dioxolan-2-yl-N-methyl-N-propyl-isophthalamic acid
Mix 5-formyl-N-methyl-N-propyl-isophthalamic acid ethyl ester (580 mg, 2.1 mmol), ethane-1,2-diol (0.35 mL, 6.3 mmol), and boron trifluoride diethyl etherate (0.2 mL, 1.6 mmol) in THF (5 mL) and stir for 1.5 h. Add additional ethane-1,2-diol (0.35 mL, 6.3 mmol) and stir for 20 min. Add 1 N NaOH (10 mL) and stir for 1 h. Add additional 5 N NaOH (1 mL) and stir for 30 min. Dilute the reaction mixture with water (10 mL) and wash with diethyl ether (2×10 mL). Acidify the aqueous layer with 0.5 N HCl to about pH=5. Extract with dichloromethane (3×20 mL), dry (sodium sulfate) and concentrate to give the title compound as a crude residue that is used in the next step without further purification.

reactant | 5-formyl-N-methyl-N-propyl-isophthalamic acid ethyl ester | 2.1 mmol, 580 mg | C(C)OC(C1=CC(C(=O)N(CCC)C)=CC(=C1)C=O)=O | C15H19NO4
reactant | ethane-1,2-diol | 6.3 mmol, 0.35 mL | C(CO)O | C2H6O2
reactant | boron trifluoride diethyl etherate | 1.6 mmol, 0.2 mL | B(F)(F)F.CCOCC
reactant | ethane-1,2-diol | 6.3 mmol, 0.35 mL | C(CO)O | C2H6O2
reactant | NaOH | 1 N, 10 mL | [OH-].[Na+]
reactant | NaOH | 5 N, 1 mL | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 5-[1,3]Dioxolan-2-yl-N-methyl-N-propyl-isophthalamic acid | O1C(OCC1)C=1C=C(C=C(C(=O)O)C1)C(=O)N(CCC)C | C15H19NO5
